* som_j2.cir — SPICE subckt for the SoM mezzanine connector J2 subsystem.
*
* CARRIER-LOCAL: the J connectors are the SoM side of the carrier<->SoM
* contract; their nets are real carrier nets (carrier/som_conn_gen.py +
* carrier/som_interface.json), not abstract library names. A board-level .op/
* .tran wires these subckt pins straight onto the same carrier nets.
*
* J2 is a PURE pass-through PLUG (mates the SoM DS receptacle) (Hirose DF40C-100DP-0.4V(51), 100 pins):
* it adds NO on-sheet passive network — no decoupling, no straps, no series/
* termination parts. The placement engine's connector-fan template fires only
* for a lone >=40-pin part, so any carrier-side discrete lives on another sheet.
* This subckt declares J2's externally-visible POWER/GROUND rail as its pins so a
* board sim can tie the VCCO supply, and leaves the body empty.
*
* The 72 signal PORT pass-throughs (HDMI RX/TX TMDS, LCD touch, Pmod expansion,
* PS UART0 modem + debug UART, PL buttons, FMC-present, SD card-detect, bank-13
* spares) carry no two-rail passive and so are not subckt pins.
*
* Rail (carrier spelling, '+' stripped for SPICE node syntax):
*   V3V3 = +3V3   VCCO source for Zynq banks 13+33 (the +VCCO_13/33 contacts
*                 merge onto the carrier +3V3 rail — the buck is the source)
*
* Port order: V3V3 GND   (GND last, by convention)

.subckt som_j2 V3V3 GND

* Pure pass-through PLUG (mates the SoM DS receptacle): no on-sheet passive network.
* (rail modelled as a tiny resistive tie so the node is not floating in .op)
R3V3 V3V3 GND 1G

.ends som_j2

* Standalone smoke harness (ngspice -b runs it; harmless under any project use):
* a 1 V source through 1k onto V3V3 settles to ~1 V at DC (1G tie is open).
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
